US07776875B2
Preparation of Racemic (2′S,3S,4′R)-4′-[2-(1-acetyl-4-piperidinyloxy)-5-bromo-phenyl]-6-chloro-2′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
In a manner similar to the method described in Example 38b, racemic (2′S,3S,4′R)-4′-[5-bromo-2-(4-piperidinyloxy)-phenyl]-6-chloro-2′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (85 mg, 0.14 mmol) was reacted with acetyl chloride (13 mg, 0.17 mmol), triethylamine in tetrahydrofuran to give the title compound as a white solid (Yield: 43 mg).

reactant | racemic (2′S,3S,4′R)-4′-[5-bromo-2-(4-piperidinyloxy)-phenyl]-6-chloro-2′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.14 mmol, 85 mg | BrC=1C=CC(=C(C1)C1C2(C(NC(C1)=O)C1=CC(=CC=C1)Cl)C(NC1=CC(=CC=C12)Cl)=O)OC1CCNCC1 | C29H26BrCl2N3O3
reactant | acetyl chloride | 0.17 mmol, 13 mg | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Racemic (2′S,3S,4′R)-4′-[2-(1-acetyl-4-piperidinyloxy)-5-bromo-phenyl]-6-chloro-2′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | Yield: 43 mg | C(C)(=O)N1CCC(CC1)OC1=C(C=C(C=C1)Br)C1C2(C(NC(C1)=O)C1=CC(=CC=C1)Cl)C(NC1=CC(=CC=C12)Cl)=O | C31H28BrCl2N3O4
